US08975415B2
Under ice cooling, to a solution of N-[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H-spiro[chromene-3,1′-cyclopropan]-4-yl]-2-methylpropane-2-sulfinamide (4.60 g, 10.5 mmol) in THF-EtOH (50% v/v, 46 mL) was added 4M HCl/dioxane (13.1 mL, 52.5 mmol), and the mixture was stirred for 3 hours at room temperature. Under ice cooling, saturated aqueous NaHCO3, H2O and brine were added to the mixture, and then the mixture was extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated. The residue was purified by silica gel chromatography (EtOAc/hexane=50:50-100:0) to give 2-(4-amino-6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-yl)-2,2-difluoroethanol (2.28 g).

reactant | N-[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H-spiro[chromene-3,1′-cyclopropan]-4-yl]-2-methylpropane-2-sulfinamide | 10.5 mmol, 4.60 g | BrC=1C=C2C(C3(CC3)COC2=CC1)(C(CO)(F)F)NS(=O)C(C)(C)C | C17H22BrF2NO3S
reactant | HCl dioxane | 52.5 mmol, 4M, 13.1 mL | Cl.O1CCOCC1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | H2O | O | H2O
solvent | THF EtOH | 46 mL | C1CCOC1.CCO
solvent | brine | [Cl-].[Na+].O
product | 2-(4-amino-6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-yl)-2,2-difluoroethanol | 2.28 g | NC1(C2=CC(=CC=C2OCC12CC2)Br)C(CO)(F)F | C13H14BrF2NO2
